US07371605B2
Synthesis of 5,5′-bis(4-isopropylphenyl)-2,2′-bithiophene (diPr-PTTP).
A solution of 1.8 g of 5,5′-bis(tributylstannyl)-2,2′-bithiophene, 1.3 g of 1-bromo-4-isopropylbenzene, and 80 mg of Pd(PPh3)4 in 35 milliliters (“mL”) of N,N-dimethylformamide was heated at 70° C. for 2 days under nitrogen. After cooling, 0.6 g of yeliow-green solid was obtained after washing with methanol and ether, verified pure by nuclear magnetic resonance spectroscopy (“NMR”), and used directly for film and crystal studies.

reactant | 5,5′-bis(tributylstannyl)-2,2′-bithiophene | 1.8 g | C(CCC)[Sn](C1=CC=C(S1)C=1SC(=CC1)[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | 1-bromo-4-isopropylbenzene | 1.3 g | BrC1=CC=C(C=C1)C(C)C | C9H11Br
solvent | N,N-dimethylformamide | 35 milliliters | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,5′-bis(4-isopropylphenyl)-2,2′-bithiophene | 0.6 g | C(C)(C)C1=CC=C(C=C1)C1=CC=C(S1)C=1SC(=CC1)C1=CC=C(C=C1)C(C)C | C26H26S2
